US08110579B2
Stir a solution of 5 g (10 mmol) of methyl 6-[3-(benzyloxy)-4-chlorophenyl]-5-{[(trifluoromethyl)sulphonyl]oxy}pyridine-2-carboxylate and 2.78 g (11 mmol) of 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane in 50 mL of anhydrous 1,4-dioxan for 15 min while bubbling with argon, then add 2.93 g (30 mmol) of anhydrous potassium acetate and 0.37 g (0.45 mmol) of PdCl2(dppf) and heat the reaction mixture for 26 h at 80°. Then distribute the reaction mixture in 100 mL of EtOAc/brine 1:1 mixture. Dry the organic phase over Na2SO4, filter, and then concentrate under reduced pressure. Purify the residue obtained by chromatography on a silica column, eluting with a cyclohexane/EtOAc gradient from 0 to 20% of EtOAc. After concentration under reduced pressure, we obtain 3.2 g of methyl 6-[3-(benzyloxy)-4-chlorophenyl]-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-2-carboxylate in the form of a wax.

reactant | methyl 6-[3-(benzyloxy)-4-chlorophenyl]-5-{[(trifluoromethyl)sulphonyl]oxy}pyridine-2-carboxylate | 10 mmol, 5 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1Cl)C1=C(C=CC(=N1)C(=O)OC)OS(=O)(=O)C(F)(F)F | C21H15ClF3NO6S
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 11 mmol, 2.78 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 30 mmol, 2.93 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxan | 50 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc brine | 100 mL | CCOC(=O)C.[Cl-].[Na+].O
catalyst | PdCl2(dppf) | 0.45 mmol, 0.37 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl 6-[3-(benzyloxy)-4-chlorophenyl]-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-2-carboxylate | 3.2 g, Yield=67% | C(C1=CC=CC=C1)OC=1C=C(C=CC1Cl)C1=C(C=CC(=N1)C(=O)OC)B1OC(C(O1)(C)C)(C)C | C26H27BClNO5
